US07309718B2
(b) 3-Trifluoromethanesulfonyloxy-5H-dibenzo[a,d]-cyclohepten-5-one
In 30 ml of methylene chloride was dissolved 0.23 g (1.0 mmol) of 3-hydroxy-5H-dibenzo[a,d]cyclohepten-5-one and after cooling the solution with ice-water, 0.33 ml (2.0 mmol) of trifluoromethanesulfonic anhydride and 0.27 ml (2.0 mmol) of triethylamine were added to the solution and the resulting mixture was stirred under ice-cooling for 4 hours.

reactant | 3-hydroxy-5H-dibenzo[a,d]cyclohepten-5-one | 1.0 mmol, 0.23 g | OC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1 | C15H10O2
reactant | trifluoromethanesulfonic anhydride | 2.0 mmol, 0.33 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 2.0 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-Trifluoromethanesulfonyloxy-5H-dibenzo[a,d]-cyclohepten-5-one | FC(S(=O)(=O)OC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1)(F)F | C16H9F3O4S
